US08076329B2
A solution of (2R,4R)-2,4-pentanediol (15.0 g), triethylamine (45.2 mL) and dichloromethane (350 mL) is cooled at a temperature close to 0° C. Methanesulfonyl chloride (24.5 mL) is added dropwise. The mixture is stirred for 3 h at a temperature close to 0° C., hydrolysed with a 1.5 N aqueous hydrochloric solution (100 mL) and extracted with dichloromethane. The organic extracts are pooled, washed with a saturated aqueous solution of sodium hydrogenocarbonate, then a saturated aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated under reduced pressure to give 36.06 g of (2R,4R)-2,4-pentanediol dimethanesulfonate as a brown oil used without further purification.

reactant | (2R,4R)-2,4-pentanediol | 15.0 g | C[C@H](C[C@@H](C)O)O | C5H12O2
reactant | triethylamine | 45.2 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 24.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | (2R,4R)-2,4-pentanediol dimethanesulfonate | 36.06 g | CS(=O)(=O)O[C@H](C)C[C@@H](C)OS(=O)(=O)C | C7H16O6S2
